US04497813
A solution of 10.2 g of 1-(2,3-epoxypropoxy)-4-(2-methoxyethoxy)benzene and 11.0 g of 5-[2-(benzylamino)-propoxy]salicylamide in 200 ml of isopropanol is refluxed for 24 hours. By concentration of the solution by evaporation, crude 1-[N-[2-(3-carbamoyl-4-hydroxyphenoxy)-1-methylethyl]benzylamino]-3-[4-(2-methoxyethoxy)phenoxy]-propan-2-ol is obtained as an oil which is used in its crude state for debenzylation.

reactant | 1-(2,3-epoxypropoxy)-4-(2-methoxyethoxy)benzene | 10.2 g | O1C(COC2=CC=C(C=C2)OCCOC)C1 | C12H16O4
reactant | 5-[2-(benzylamino)-propoxy]salicylamide | 11.0 g | C(C1=CC=CC=C1)NC(COC1=CC=C(C(C(=O)N)=C1)O)C | C17H20N2O3
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 1-[N-[2-(3-carbamoyl-4-hydroxyphenoxy)-1-methylethyl]benzylamino]-3-[4-(2-methoxyethoxy)phenoxy]-propan-2-ol | C(N)(=O)C=1C=C(OCC(C)N(CC(COC2=CC=C(C=C2)OCCOC)O)CC2=CC=CC=C2)C=CC1O | C29H36N2O7
